US07919504B2
1-(3-Fluoro-4-nitrobenzoyl)thiosemicarbazide.
3-Fluoro-4-nitrobenzenecarboxylic acid (8.4 g, 45 mmol) and 1,1′-carbonyldiimidazole (10 g, 64 mmol) were mixed in 100 mL DMF. The mixture was stirred at 20° C. for 1 hour. A clear yellow solution formed. To this mixture was added thiosemicarbazide (8.3 g, 91 mmol). The resulting mixture was stirred at 20° C. for 30 minutes. The reaction mixture was concentrated under vacuum to remove almost all the DMF. The remaining residue was treated with 2 N HCl with stirring until the solution reached pH 4. Upon standing, a yellow solid formed. The pure product was obtained as a yellow solid after filtering, washing with water, and drying (8.02 g, 68% yield). LCMS (API-ES) m/z (%): 259.1 (100%, M++H); 1H NMR (400 MHz, DMSO-d6) δ ppm 7.81 (s, 1H) 7.90 (d, J=8.41 Hz, 1H) 7.99 (s, 1H) 8.04 (d, J=11.93 Hz, 1H) 8.28 (t, J=8.02 Hz, 1H) 9.47 (s, 1H) 10.76 (s, 1H).

reactant | 3-Fluoro-4-nitrobenzenecarboxylic acid | 45 mmol, 8.4 g | FC=1C=C(C=CC1[N+](=O)[O-])C(=O)O | C7H4FNO4
reactant | 1,1′-carbonyldiimidazole | 64 mmol, 10 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | thiosemicarbazide | 91 mmol, 8.3 g | NNC(=S)N | CH5N3S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(3-Fluoro-4-nitrobenzoyl)thiosemicarbazide | 68% yield | FC=1C=C(C(=O)NNC(=S)N)C=CC1[N+](=O)[O-] | C8H7FN4O3S
